US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(4-{2-[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]ethyl}phenylcarbamoyl)phenyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
A solution of biphenyl-2-ylcarbamic acid 1-[2-({3-[4-(2-{benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]-amino}ethyl)phenylcarbamoyl]phenyl}methylcarbamoyl)ethyl]piperidin-4-yl ester (1.74 g, 1.56 mmol) in EtOH (12.2 mL) and AcOH (0.122 mL) was flushed with nitrogen for 3 min. Palladium on carbon (10%, ˜50% water, 0.18 g) was added and the reaction mixture was flushed with hydrogen for 4 min. The mixture was stirred under a hydrogen atmosphere (balloon) overnight and then filtered and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (0-15% MeOH in DCM) to give the title compound (1.11 g, 76% yield) as a thick brownish liquid.

reactant | biphenyl-2-ylcarbamic acid 1-[2-({3-[4-(2-{benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]-amino}ethyl)phenylcarbamoyl]phenyl}methylcarbamoyl)ethyl]piperidin-4-yl ester | 1.56 mmol, 1.74 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)CNC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C68H76N6O7Si
solvent | EtOH | 12.2 mL | CCO | C2H6O
solvent | AcOH | 0.122 mL | CC(=O)O | C2H4O2
catalyst | Palladium on carbon | 0.18 g | [Pd] | Pd
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[3-(4-{2-[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]ethyl}phenylcarbamoyl)phenyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | 1.11 g, 76% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)NC(=O)C=1C=C(C=CC1)CNC(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C1=C2C=CC(NC2=C(C=C1)O)=O | C54H64N6O7Si
